US08426447B2
Potassium permanganate (53 g, 3.4 mol) was added to a solution of 1-bromo-5-fluoro-4-methoxy-2-methylbenzene (37 g, 1.7 mol) in 75 ml of pyridine and 150 ml of water at 60° C. The solution was stirred at 60° C. degrees for 24 hours. The solution was filtered and the solids were washed with a solution of water/methanol (50:50). The filtrate was concentrated to approximately 100 ml, then acidified (pH 1) with concentrated HCl. The solid was collected by filtration and dried under vacuum to afford 2-bromo-4-fluoro-5-methoxybenzoic acid as an off white solid. MS m/z=248.9 [M+H].

reactant | Potassium permanganate | 3.4 mol, 53 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 1-bromo-5-fluoro-4-methoxy-2-methylbenzene | 1.7 mol, 37 g | BrC1=C(C=C(C(=C1)F)OC)C | C8H8BrFO
reactant | water | 150 ml | O | H2O
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
product | 2-bromo-4-fluoro-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C(=C1)F)OC | C8H6BrFO3
